US08877816B2
2-(3-Chloro-phenoxy)-3-fluoro-4-(4-fluoro-benzyl)-1-methoxy-benzene P-03.
To a 250 mL flask which contained the suspension of 3-[2-fluoro-3-(4-fluoro-benzyl)-6-methoxy-phenoxy]-phenylamine (P-02) (135 mg, 0.4 mmole) in aq HCl (12 N. 5 mL) was slowly added the solution of sodium nitrite (50 mg, 0.7 mmole) in water (3 mL) at 0° C. The mixture was allowed to stir at 0° C.-5° C. for 1 h, and then was cooled to 0° C. A solution of copper(I) chloride (55 mg, 0.4 mmol) in aq. HCl (12 N. 2 mL)) was added at 0° C. and the reaction mixture which resolved was allowed warm to rt and stir at rt for 1 h. The mixture was poured into 50 mL ice-water, extracted with ethyl acetate (3×30 mL), washed with water (2×30 mL), NaHCO3 (sat. 30 mL), brine (30 mL) and dried over Na2SO4. After removal of solvent, the residue was purified by Prep TLC with ethyl acetate/Hexane as eluent to give 45 mg (33% yield) of product P-03.

reactant | 3-[2-fluoro-3-(4-fluoro-benzyl)-6-methoxy-phenoxy]-phenylamine | 0.4 mmole, 135 mg | FC1=C(OC=2C=C(C=CC2)N)C(=CC=C1CC1=CC=C(C=C1)F)OC | C20H17F2NO2
reactant | sodium nitrite | 0.7 mmole, 50 mg | N(=O)[O-].[Na+]
reactant | HCl | 12 N, 5 mL | Cl | ClH
reactant | HCl | 12 N, 2 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
catalyst | copper(I) chloride | 0.4 mmol, 55 mg | [Cu]Cl
product | 2-(3-Chloro-phenoxy)-3-fluoro-4-(4-fluoro-benzyl)-1-methoxy-benzene | 45 mg, 33% yield | ClC=1C=C(OC2=C(C=CC(=C2F)CC2=CC=C(C=C2)F)OC)C=CC1 | C20H15ClF2O2
